US05547972
A mixture of methyl 4-(1-cyano-1-methylethyl)benzoate (1.0 g), sodium hydroxide (0.4 g), water (2 ml) and IMS (5 ml) was heated to 50° C. with stirring. Hydrogen peroxide (60% w/v, 1.23 ml) was added dropwise and the reaction mixture was stirred at 50° C. for 1 hour. and then at ambient temperature for 3 hours. The reaction mixture was evaporated to dryness under reduced pressure. Water (10 ml) was added to the residue and this mixture was heated at 95° C. for 1 hour. The mixture was cooled, washed with dichloromethane, acidified with 5M hydrochloric acid and filtered to give 4-(1-carbamoyl-1-methylethyl)benzoic acid, m.p. 218°-219° C.

reactant | methyl 4-(1-cyano-1-methylethyl)benzoate | 1.0 g | C(#N)C(C)(C)C1=CC=C(C(=O)OC)C=C1 | C12H13NO2
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | Hydrogen peroxide | 1.23 ml | OO | H2O2
solvent | water | 2 ml | O | H2O
product | 4-(1-carbamoyl-1-methylethyl)benzoic acid | C(N)(=O)C(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
